US07598243B2
A mixture of 1-benzyl-3-methyl-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate (3 g, 9.0 mmol), [3-(ethoxycarbonyl)phenyl]boronic acid (2.26 g, 11.6 mmol), PdCl2(PPh3)2 (315 mg, 0.44 mmol), and potassium carbonate (2.5 g, 18.0 mmol) in Toluene:EtOH (10:1, 50 mL) were heated to 100° C. for 18 hr. The cooled reaction mixture was partitioned between EtOAC and H2O and the aqueous layer was extrated with EtOAc (4×). The organics were combined, dried over sodium sulfate, filtered and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with a gradient of hexane:EtOAc to yield ethyl 3-(1-benzyl-3-methyl-1,2,3,6-tetrahydropyridin-4-yl)benzoate as a clear oil.

reactant | 1-benzyl-3-methyl-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | 9.0 mmol, 3 g | FC(S(=O)(=O)OC=1C(CN(CC1)CC1=CC=CC=C1)C)(F)F | C14H16F3NO3S
reactant | [3-(ethoxycarbonyl)phenyl]boronic acid | 11.6 mmol, 2.26 g | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | potassium carbonate | 18.0 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | Toluene EtOH | 50 mL | C1(=CC=CC=C1)C.CCO
catalyst | PdCl2(PPh3)2 | 0.44 mmol, 315 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 3-(1-benzyl-3-methyl-1,2,3,6-tetrahydropyridin-4-yl)benzoate | C(C1=CC=CC=C1)N1CC(C(=CC1)C=1C=C(C(=O)OCC)C=CC1)C | C22H25NO2
